US07241785B2
A mixture of methyl (3-hydroxy-1-phenyl-1H-pyrazol-4-yl)acetate (406 mg), 5-chloromethyl-2-(5-methyl-2-phenyl-4-oxazolylmethoxy)pyridine (551 mg), potassium carbonate (484 mg) and N,N-dimethylformamide (10 ml) was stirred at 60° C. for 4 hrs. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The obtained colorless crystals were collected by filtration to give methyl [3-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethoxy]-1-phenyl-1H-pyrazol-4-yl]acetate (690 mg, yield 77%), which was then recrystallized from ethyl acetate-hexane. melting point: 96–97° C.

reactant | methyl (3-hydroxy-1-phenyl-1H-pyrazol-4-yl)acetate | 406 mg | OC1=NN(C=C1CC(=O)OC)C1=CC=CC=C1 | C12H12N2O3
reactant | 5-chloromethyl-2-(5-methyl-2-phenyl-4-oxazolylmethoxy)pyridine | 551 mg | ClCC=1C=CC(=NC1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C17H15ClN2O2
reactant | potassium carbonate | 484 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl [3-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethoxy]-1-phenyl-1H-pyrazol-4-yl]acetate | 690 mg, yield 77% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=N1)COC1=NN(C=C1CC(=O)OC)C1=CC=CC=C1 | C29H26N4O5
